US08202873B2
2-{4-[3′-(4-Fluoro-phenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-ylmethyl]-pyrazol-1-yl}-ethanol hydrochloride
Dissolve 3′-(4-fluoro-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl (0.320 g, 1.24 mmol) in DCE (5 mL). Add 1-(2-hydroxy-ethyl)-1H-pyrazole-4-carbaldehyde (0.243 g, 1.73 mmol), and stir at room temperature. Add sodium triacetoxyborohydride (0.394 g, 1.86 mmol) and stir at room temperature for 18 hr. Purify via SCX chromatography, followed by silica gel chromatography, eluting with 20:80 then 0:100 hexanes:ethyl acetate then 5:95 methanol:ethyl acetate then 10:90 methanol:ethyl acetate, to give the free base of the title compound (296 mg, 62%). Dissolve the free base (0.290 g, 0.760 mmol) in acetonitrile and add 1N aqueous HCl solution (913 μL, 0.913 mmol) and shake at ambient temperature for 30 min. Freeze and lyophilize to give the title compound (315 mg, 99%). MS (ES): m/z=383 [M+H]+.

reactant | 3′-(4-fluoro-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl | 1.24 mmol, 0.320 g | FC1=CC=C(C=C1)C=1C(=NC=CN1)N1CCNCC1 | C14H15FN4
reactant | 1-(2-hydroxy-ethyl)-1H-pyrazole-4-carbaldehyde | 1.73 mmol, 0.243 g | OCCN1N=CC(=C1)C=O | C6H8N2O2
reactant | sodium triacetoxyborohydride | 1.86 mmol, 0.394 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | DCE | 5 mL | ClCCCl | C2H4Cl2
product | 2-{4-[3′-(4-Fluoro-phenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-ylmethyl]-pyrazol-1-yl}-ethanol hydrochloride | 296 mg, 62% | Cl.FC1=CC=C(C=C1)C=1C(=NC=CN1)N1CCN(CC1)CC=1C=NN(C1)CCO | InChI=1S/C20H23FN6O.ClH/c21-18-3-1-17(2-4-18)19-20(23-6-5-22-19)26-9-7-25(8-10-26)14-16-13-24-27(15-16)11-12-28;/h1-6,13,15,28H,7-12,14H2;1H
